US05633279
To a solution of ethyl dimethylphosphonoacetate (135 mg) in DMF (5 ml) at 0° was added 50% NaH/oil (33 mg), and the mixture stirred for 10 minutes. (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy7-methyl -3-oxoisobenzofuran-5-yl)-2-methylbut-2-enyl bromide (600 mg) was added at the same temperature and allowed to reach room temperature in 30 minutes. The reaction was poured onto water and extracted with EtOAc. The organic layers were washed with water, dried over sodium sulfate, and evaporated to give the crude product which was purified by flash chromatography (CH2Cl2 followed by EtOAc) to obtain ethyl (E)-6-(4-methoxyethoxymethoxy -1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-(dimethylphosphono) -4-methyl-4-hexenoate as an oil.

reactant | ethyl dimethylphosphonoacetate | 135 mg | COP(=O)(OC)CC(=O)OCC | C6H13O5P
reactant | NaH | 33 mg | [H-].[Na+]
reactant | (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy7-methyl -3-oxoisobenzofuran-5-yl)-2-methylbut-2-enyl bromide | 600 mg | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CBr)\C | C19H25BrO6
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl (E)-6-(4-methoxyethoxymethoxy -1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-(dimethylphosphono) -4-methyl-4-hexenoate | COCCOCOC1=C2C(OCC2=C(C(=C1C/C=C(/CC(C(=O)OCC)P(=O)(OC)OC)\C)OC)C)=O | C25H37O11P
